US05506256
A) (2S)-2-(2-Benzyloxy-1-hydroxyethyl)pyrrolidine
To a solution of benzylalcohol (2.0 ml) in DMF (10 ml) was added sodium hydride (60% dispersion in oil, 378 mg), and the mixture was stirred at room temperarture for 1 hour. A solution of (2S)-1-(tert-butoxycarbonyl)-2-(1,2-epoxyethyl)pyrrolidine (2.00 g) in DMF (10 ml) was dropwise added thereto, and the mixure was stirred for 4 hours. The reaction mixture was poured into saturated ammonium chloride and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (eluate: hexane-ethyl acetate). Thus-obtained purified compound (640 mg) was dissolved in a mixture of 1,4-dioxane-water (1:1, 30 ml), and barium hydroxide octahydrate (800 mg) was added thereto, and the mixture was refluxed at 120° C. for 4 hours. After the insoluble material was filtered off, the filtrate was adjusted to pH 5-6 with 1M phosphoric acid and washed with ether. The aqueous layer was then adjusted to pH 8 with 1N sodium hydroxide and extracted with chloroform. The chloroform extract was dried over anhydrous magnesium sulfate and concentrated to give crude crystals of the title compound (297 mg).

reactant | benzylalcohol | 2.0 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 378 mg | [H-].[Na+]
reactant | (2S)-1-(tert-butoxycarbonyl)-2-(1,2-epoxyethyl)pyrrolidine | 2.00 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1CO1 | C11H19NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (2S)-2-(2-Benzyloxy-1-hydroxyethyl)pyrrolidine | 297 mg | C(C1=CC=CC=C1)OCC(O)[C@H]1NCCC1 | C13H19NO2
